US08871754B2
To a stirred solution of 7-fluoro-2H-benzo[b][1,4]oxazin-3(4H)-one (I-22, 1 g, 5.98 mmol) in THF (25 mL) at 0° C. was added 3M CH3MgBr (8 mL, 24 mmol). After additon, the cooling bath was removed and the mixture was heated to 65° C. for 4 h. The reaction mixture was quenched with acetic acid (10 mL) at 0° C. and NaBH4 (568 mg, 15 mmol) was added to the solution. The resulting solution was stirred at rt for overnight. Subsequently, 3N aqueous NaOH solution was cautiously added until pH value of the mixture was adjusted to 10.0. The basic solution was extracted with ethyl acetate (2×30 mL). The combined organic layers were washed with water, brine, dried over Na2SO4 and the solvent was removed under reduced pressure. The resulting crude product was purified by column chromatography over neutral alumina (petroleum ether/EtOAc, 0-15% EtOAc) to afford 135 mg (14%) of 7-fluoro-3-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine (I-23) as a brown oil. 1H NMR (400 MHz, DMSO) δ 6.45-6.55 (m, 3H), 4.16-4.19 (m, 1H), 3.73-3.77 (m, 1H), 3.44-3.51 (m, 2H), 1.17 (d, J=6.34 Hz, 3H).

reactant | 7-fluoro-2H-benzo[b][1,4]oxazin-3(4H)-one | 5.98 mmol, 1 g | FC=1C=CC2=C(OCC(N2)=O)C1 | C8H6FNO2
reactant | CH3MgBr | 24 mmol, 3M, 8 mL | C[Mg+].[Br-]
reactant | NaBH4 | 15 mmol, 568 mg | [BH4-].[Na+]
reactant | NaOH | 3N | [OH-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 7-fluoro-3-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine | 135 mg, 14% | FC=1C=CC2=C(OCC(N2)C)C1 | C9H10FNO
